US06498169B1
Synthesis of 4-Anilino-1-[[2-(4-chloro-3,5-dimethoxyphenyl)pyridin-4-yl]methyl]piperidine
1-[[2-(4-Chloro-3,5-dimethoxyphenyl)pyridin-4-yl]methyl]-4-piperidone (600 mg) and aniline (0.18 mL) were reacted in the same manner as described in Preparation Example 37 to give the title compound.

reactant | 1-[[2-(4-Chloro-3,5-dimethoxyphenyl)pyridin-4-yl]methyl]-4-piperidone | 600 mg | ClC1=C(C=C(C=C1OC)C1=NC=CC(=C1)CN1CCC(CC1)=O)OC | C19H21ClN2O3
reactant | aniline | 0.18 mL | NC1=CC=CC=C1 | C6H7N
product | 4-Anilino-1-[[2-(4-chloro-3,5-dimethoxyphenyl)pyridin-4-yl]methyl]piperidine | N(C1=CC=CC=C1)C1CCN(CC1)CC1=CC(=NC=C1)C1=CC(=C(C(=C1)OC)Cl)OC | C25H28ClN3O2
